US05492910
Sodium chlorite (1.81 g, 20 mmol) and sulfamic acid (1.94 g, 20 mmol) were added in succession to a stirred solution of (R)-2,3,3-trimethyl-2-hydroxybutanal (2.0 g, 15.4 mmol) in 30 ml of tetrahydrofuran-water (1:1) at 0° C. The mixture was allowed to warm to room temperature, stirred for 30 minutes, diluted with methylene chloride and about 1 ml of methyl sulfide was added followed by a small quantity of water. The organic layer was separated, the aqueous layer was extracted with methylene chloride, and the combined organic layer was dried (magnesium sulfate) and concentrated to afford a yellow gummy solid. Recrystallization from hexanes afford 1.45 g of (R) -2,3,3-trimethyl-2-hydroxybutanoic acid as a pale solid.

reactant | Sodium chlorite | 20 mmol, 1.81 g | Cl(=O)[O-].[Na+]
reactant | sulfamic acid | 20 mmol, 1.94 g | S(N)(O)(=O)=O | H3NO3S
reactant | (R)-2,3,3-trimethyl-2-hydroxybutanal | 15.4 mmol, 2.0 g | C[C@](C=O)(C(C)(C)C)O | C7H14O2
reactant | water | O | H2O
solvent | tetrahydrofuran water | 30 ml | O1CCCC1.O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methyl sulfide | about 1 ml | CSC | C2H6S
product | (R) -2,3,3-trimethyl-2-hydroxybutanoic acid | 1.45 g | C[C@](C(=O)O)(C(C)(C)C)O | C7H14O3
